2149-05-17 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2149-5-16**] 01:00 PM
   C.diff +, started on flagyl
   weaned down PEEP to 15
   Allergies:
   Ceftriaxone
   Unknown;
   Propofol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2149-5-16**] 01:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2149-5-16**] 03:15 PM
   Lorazepam (Ativan) - [**2149-5-17**] 03:19 AM
   Other medications:
   ISS
   Alprazolam
   Lasix 40 [**Hospital1 7**]
   Reglan
   Iron
   Lexapro
   Lansoprazaole
   Simvastatin
   Lopressor
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-17**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 92 (79 - 124) bpm
   BP: 128/84(93) {100/63(73) - 161/109(119)} mmHg
   RR: 10 (7 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    415 mL
                                                                    173 mL
   PO:
                  TF:
                                                                     15 mL
                                                                    133 mL
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                    135 mL
   Urine:
                                                                    160 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    255 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 617 (617 - 617) mL
   PS : 20 cmH2O
   RR (Set): 8
   RR (Spontaneous): 12
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 42 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 6.2 L/min
   Physical Examination
   General: Awake, alert, in distress
   HEENT: trach in place, thick secretions being suctions
   Pulmonary: diffuse wheezing bilaterally, abdominal breathing and
   retractions
   Cardiac: tachycardia, no MRG
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Neurologic:
   -mental status: Alert, in distress, unable to speak but mouths words
   in one word answers
   Labs / Radiology
   386 K/uL
   10.4 g/dL
   140 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   101 mEq/L
   141 mEq/L
   33.4 %
   6.4 K/uL
        [image002.jpg]
                             [**2149-5-17**]  02:58 AM
   WBC
   6.4
   Hct
   33.4
   Plt
   386
   Cr
   0.9
   Glucose
   140
   Other labs: Differential-Neuts:77.9 %, Lymph:19.3 %, Mono:2.5 %,
   Eos:0.1 %, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
    C.diff Positive
   Assessment and Plan
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   76F recently diagnosed with DM, HTN, tracheobronchomalacia from
   multiple intubations, s/p metal stent placement at OSH and recent
   removal of Y-stent two days ago admitted for respiratory distress.
   .
   # Respiratory distress: Tachpnea and labored breathing. CXR w/o new
   PNA, no fever, no leukocytosis. Wheezing may be suggestive of COPD
   exacerbation. However, pt may also be anxious and subsequently
   tachypnic with increased intrathoracic pressure causing upper airway
   collapse on a already severely narrowed airway. Per IP, patient is
   frequently anxious.
   - appreciate IP recommendations
   - inc PEEP to open up upper airway -> continue to come down on PEEP as
   tolerated
   - anxiolytics: zyprexa TID, Klonopin qhs, escitalopram qd, ativan and
   fentanyl boluses PRN
   - f/u sputum cx to see if there is a bronchitis component
   .
   # Tachycardia: brief episodes to 180's, now in 100's, sinus tachycardia
   vs AVNRT, ? anxiety
   - monitor on telemetry
   .
   # Diarrhea/ C.diff positive:
   - started flagyl
   .
   # COPD:
   - albuterol and ipratropium qh 6hrs
   .
   # DM:
   - glarine and SSI as per home regimen
   .
   # Hyperlipidemia:
   - cont statin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-5-16**] 10:29 PM 20 mL/hour, will need to
   clarify if she can eat as a baseline
   Glycemic Control:
   Lines:
   22 Gauge - [**2149-5-16**] 01:00 PM
   18 Gauge - [**2149-5-16**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-05-17 10:05:00 Physician Attending Progress Note
Chief Complaint:
   HPI: Patient seen and examined with team and concure with their
   assessment and plan.
   24 Hour Events:
   Did well until this morning when she became anxious and tachypnic
   received 25 fen 1.5 ativan.  Did respond and became more calm.
   C.Diff positive. + Diarrhea
 INVASIVE VENTILATION - START [**2149-5-16**] 01:00 PM
   Allergies:
   Ceftriaxone
   Unknown;
   Propofol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2149-5-16**] 01:00 PM
   Flagyl PO
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-5-17**] 08:02 AM
   Lorazepam (Ativan) - [**2149-5-17**] 08:02 AM
   Fentanyl - [**2149-5-17**] 08:02 AM
   Lansoprazole (Prevacid) - [**2149-5-17**] 08:03 AM
   Other medications:
   Metoprolol 12.5mg [**Hospital1 7**]
   Albuterol Inhaler 2 PUFF IH Q2HR PRN wheezing, tachpnea
   Lorazepam 0.5 mg  Q4H:PRN
   Ativan 1mg q8hrs
   Alprazolam 0.5 mg PO QHS
   Metoclopramide 5 mg PO QIDACHS
   Docusate Sodium 100 mg PO BID  Order date: [**5-16**] @ 1332 19. Olanzapine
   5 mg PO TID  Order date: [**5-16**] @ 1332
   Escitalopram Oxalate 10 mg PO DAILY
   Ferrous Sulfate 325 mg PO DAILY
   Furosemide 40 mg PO BID
   Senna 1 TAB PO BID:PRN
   Heparin 5000 UNIT SC TID
   Simvastatin 40 mg PO DAILY
   Insulin SC  (per Insulin Flowsheet)Sliding Scale
   Ipratropium Bromide MDI 2 PUFF IH Q6H  Order date: [**5-16**] @ 1332
   Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-17**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.4
C (97.6
   HR: 87 (79 - 124) bpm
   BP: 105/77(84) {100/63(73) - 161/109(119)} mmHg
   RR: 24 (7 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    415 mL
                                                                    276 mL
   PO:
                  TF:
                                                                     15 mL
                                                                    196 mL
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                    185 mL
   Urine:
                                                                    160 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    255 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 617 (617 - 617) mL
   PS : 20 cmH2O
   RR (Set): 8
   RR (Spontaneous): 12
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 42 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 6.2 L/min
   Physical Examination
   General: Awake, alert, in distress
   HEENT: trach in place, thick secretions being suctions
   Pulmonary  When call lungs clear no wheeze.
   Cardiac: tachycardia, no MRG
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Neurologic:
   -mental status: Alert, in distress, unable to speak but mouths words
   in one word answers
   Labs / Radiology
   10.4 g/dL
   386 K/uL
   140 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   101 mEq/L
   141 mEq/L
   33.4 %
   6.4 K/uL
        [image002.jpg]
                             [**2149-5-17**]  02:58 AM
   WBC
   6.4
   Hct
   33.4
   Plt
   386
   Cr
   0.9
   Glucose
   140
   Other labs: Differential-Neuts:77.9 %, Lymph:19.3 %, Mono:2.5 %,
   Eos:0.1 %, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Sputum gram [**11-16**] gram neg and Gram + rods.
   Assessment and Plan
   76F recently diagnosed with DM, HTN, tracheobronchomalacia from
   multiple intubations, s/p metal stent placement at OSH and recent
   removal of Y-stent two days ago admitted for respiratory distress.
   .
   # Respiratory distress: Tachypnea and labored breathing. CXR w/o new
   PNA, no fever, no leukocytosis. Wheezing may be suggestive of COPD
   exacerbation. However, pt may also be anxious and subsequently
   tachypnic with increased intrathoracic pressure causing upper airway
   collapse on a already severely narrowed airway. Per IP, patient is
   frequently anxious.
   -Will repeat Sputum cx await speciation and tx form bronchitis.
   - appreciate IP recommendations
   - inc PEEP to open up upper airway
   - anxiolytics: zyprexa TID, Klonopin qhs, escitalopram daily, ativan
   and fentanyl boluses PRN
   #C.Diff
   -Start flagyl three times daily for 2 weeks
   .
   # Tachycardia: brief episodes to 180's, now in 100's, sinus tachycardia
   vs AVNRT, ? anxiety
   - monitor on telemetry
   .
   # COPD:
   - albuterol and ipratropium qhrs, albuterol q2hrs prn
   .
   # DM:
   - glarine and SSI as per home regimen
   .
   # Hyperlipidemia:
   - cont statin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-5-16**] 10:29 PM 30 mL/hour  Will clarify
   tube feeds.  Will need to discuss with NE Siani vent setting
   requirement and feeding there.
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-5-16**] 01:00 PM
   Prophylaxis:
   DVT:  Heprin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  45 minutes

2149-05-18 08:32:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   [**5-17**]
   - decreased PEEP to 15
   - UCx with e. coli -> started cipro PO for 3 day course, foley changed
   - repeat CXR as sputum with GNR and GPR, did not empirically start abx
   as no fever, WBC, and CXR looked very clear
   - having very thick secretions
   - this AM, noticed to have a rash over chest which looks like drug
   reaction
   - Cipro stopped
   - started Alprazolam yesterday with improved anxiety
   Allergies:
   Ceftriaxone
   Unknown;
   Propofol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2149-5-16**] 01:00 PM
   Ciprofloxacin - [**2149-5-18**] 12:10 AM
   Metronidazole - [**2149-5-18**] 08:15 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-5-18**] 05:12 AM
   Fentanyl - [**2149-5-18**] 05:40 AM
   Heparin Sodium (Prophylaxis) - [**2149-5-18**] 08:15 AM
   Lansoprazole (Prevacid) - [**2149-5-18**] 08:16 AM
   Other medications:
   Flowsheet Data as of  [**2149-5-18**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 78 (69 - 105) bpm
   BP: 120/70(80) {93/47(59) - 130/94(101)} mmHg
   RR: 14 (4 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,452 mL
                                                                    759 mL
   PO:
                  TF:
                                                                    732 mL
                                                                    339 mL
   IVF:
   Blood products:
   Total out:
                                                                    806 mL
                                                                    281 mL
   Urine:
                                                                    406 mL
                                                                    281 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    646 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 416 (416 - 804) mL
   PS : 20 cmH2O
   RR (Spontaneous): 21
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   Plateau: 31 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7.7 L/min
   Physical Examination
   General: Awake, alert, in distress
   HEENT: trach in place, secretions improving
   Pulmonary: diffuse wheezing bilaterally, abdominal breathing and
   retractions
   Cardiac: tachycardia, no MRG
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Neurologic:
   -mental status: Alert, in distress, unable to speak but mouths words
   in one word answers
   Labs / Radiology
   386 K/uL
   10.4 g/dL
   140 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   101 mEq/L
   141 mEq/L
   33.4 %
   6.4 K/uL
        [image002.jpg]
                             [**2149-5-17**]  02:58 AM
   WBC
   6.4
   Hct
   33.4
   Plt
   386
   Cr
   0.9
   Glucose
   140
   Other labs: Differential-Neuts:77.9 %, Lymph:19.3 %, Mono:2.5 %,
   Eos:0.1 %, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Microbiology: Sputum: GRAM STAIN (Final [**2149-5-16**]):
         [**11-16**] PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   UCx: URINE CULTURE (Preliminary):
         ESCHERICHIA COLI.    >100,000 ORGANISMS/ML..
   Assessment and Plan
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   76F recently diagnosed with DM, HTN, tracheobronchomalacia from
   multiple intubations, s/p metal stent placement at OSH and recent
   removal of Y-stent two days ago admitted for respiratory distress.
   # Respiratory distress: Tachypnea and labored breathing. CXR w/o new
   PNA, no fever, no leukocytosis. Wheezing may be suggestive of COPD
   exacerbation. However, pt may also be anxious and subsequently
   tachypnic with increased intrathoracic pressure causing upper airway
   collapse on a already severely narrowed airway. Per IP, patient is
   frequently anxious.
   - appreciate IP recommendations
   - inc PEEP to open up upper airway
 continue to come down on PEEP as
   tolerated
   - anxiolytics: zyprexa TID, Klonopin qhs, escitalopram qd, ativan and
   fentanyl boluses PRN
   - continue alprazolam [**Hospital1 7**]
   - f/u sputum cx to see if there is a bronchitis component
   # Tachycardia: brief episodes to 180's, now in 100's, sinus tachycardia
   vs AVNRT, ? anxiety
   - monitor on telemetry
   # Diarrhea/ C.diff positive:
   - started flagyl
   # UTI: was started on cipro overnight but developed a rash
   - benadryl PRN
   - stop cipro
   - will wait for organism prior to treating
   # COPD:
   - albuterol and ipratropium qh 6hrs
   # DM:
   - glarine and SSI as per home regimen
   # Hyperlipidemia:
   - cont statin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-5-16**] 10:29 PM 40 mL/hour
   Glycemic Control:  insulin
   Lines:
   18 Gauge - [**2149-5-16**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  chlorhexidine mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2149-05-18 09:36:00 Physician Attending Progress Note
Chief Complaint: Trachealmalacia
   HPI: Patient seen and examined with team and concure with their
   assessment and plan.
   24 Hour Events:
   Attempted to decrease PEEP got down to 8
   Started on Cipro for urine with e.coli >100K
   repeat Chest x-ray-improved
   Secretions improved
   Developed diffuse rash arms and chest fine papular rash 8 hours after
   Cipro.
   Xanax .5mg [**Hospital1 **] started yesterday.
   Fentanyl total 75mg overnight
   Allergies:
   Ceftriaxone
   Unknown;
   Propofol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2149-5-16**] 01:00 PM
   Ciprofloxacin - [**2149-5-18**] 12:10 AM
   Metronidazole - [**2149-5-18**] 08:15 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-5-18**] 05:12 AM
   Fentanyl - [**2149-5-18**] 05:40 AM
   Heparin Sodium (Prophylaxis) - [**2149-5-18**] 08:15 AM
   Lansoprazole (Prevacid) - [**2149-5-18**] 08:16 AM
   Other medications:
    Metoprolol 12.5mg [**Hospital1 7**]
   -Albuterol Inhaler 2 PUFF IH Q2HR PRN wheezing, tachpnea
   -Lorazepam 0.5 mg  Q4H:PRN
   -Alprazolam 0.5 mg [**Hospital1 **]
   -Metoclopramide 5 mg PO QIDACHS
   -Docusate Sodium 100 mg PO BID  Order date: [**5-16**] @ 1332 19.
   -Olanzapine 5 mg PO TID  Order date: [**5-16**] @ 1332
   -Escitalopram Oxalate 10 mg PO DAILY
   -Ferrous Sulfate 325 mg PO DAILY
   -Furosemide 40 mg PO BID
   -Senna 1 TAB PO BID:PRN
   -Heparin 5000 UNIT SC TID
   -Simvastatin 40 mg PO DAILY
   -Insulin SC  (per Insulin Flowsheet)Sliding Scale
   -Ipratropium Bromide MDI 2 PUFF IH Q6H  Order date: [**5-16**] @ 1332
   -Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY
   Changes to medical and family history:
   No changes from admission
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pain in her bottom otherwise no complaints
   Flowsheet Data as of  [**2149-5-18**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 66 (66 - 105) bpm
   BP: 129/109(114) {93/47(59) - 130/109(114)} mmHg
   RR: 16 (4 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,452 mL
                                                                    804 mL
   PO:
                  TF:
                                                                    732 mL
                                                                    384 mL
   IVF:
   Blood products:
   Total out:
                                                                    806 mL
                                                                    401 mL
   Urine:
                                                                    406 mL
                                                                    401 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    646 mL
                                                                    403 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 490 (416 - 804) mL
   PS : 8 cmH2O
   RR (Set): 8
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   Plateau: 31 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 11.2 L/min
   Physical Examination
   General: Awake, alert, in distress
   HEENT: trach in place
   Pulmonary  When call lungs clear no wheeze.
   Cardiac: tachycardia, no MRG
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Neurologic:
   -mental status: Alert, in distress, unable to speak but mouths words
   in one word answers
   Labs / Radiology: Chest-Unremarkable
   10.4 g/dL
   386 K/uL
   140 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   101 mEq/L
   141 mEq/L
   33.4 %
   6.4 K/uL
        [image002.jpg]
   Unable to get labs today.
                             [**2149-5-17**]  02:58 AM
   WBC
   6.4
   Hct
   33.4
   Plt
   386
   Cr
   0.9
   Glucose
   140
   Other labs: Differential-Neuts:77.9 %, Lymph:19.3 %, Mono:2.5 %,
   Eos:0.1 %, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   76F recently diagnosed with DM, HTN, tracheobronchomalacia from
   multiple intubations, s/p metal stent placement at OSH and recent
   removal of Y-stent 2 days prior to admission admitted for respiratory
   distress.  She responded very well to anti anxiety treatment and PEEP.
   .
   # Respiratory distress: Tachypnea and labored breathing. CXR w/o new
   PNA, no fever, no leukocytosis. Wheezing may be suggestive of COPD
   exacerbation. However, pt may also be anxious and subsequently
   tachypnic with increased intrathoracic pressure causing upper airway
   collapse on an already severely narrowed airway. Per IP, patient is
   frequently anxious.
   -Will f/u sputum cx no signs of active infection and sputum decreased.
   - appreciate IP recommendations
   -Titrate PEEP to open up upper airway currently down to 8
   - On PPI but will increase Lansoprazole to [**Hospital1 7**]
   -Will try Passy-Muir valve tomorrow
   - anxiolytics: zyprexa TID, Xanax 0.5mg [**Hospital1 **] escitalopram daily, ativan
   and fentanyl boluses PRN
   #C.Diff
   -Start flagyl three times daily for 2 weeks
   .
   # Tachycardia:
   -brief episodes to 180's, now in 100's, sinus tachycardia vs AVNRT, ?
   anxiety
   - monitor on telemetry
   -No further episodes
   #UTI-Did have some feeling of having to urinate
   -Will follow cx results and tailor tx given rash to cipro
   # COPD:
   - albuterol and ipratropium qhs, albuterol q2hrs prn
   .
   # DM:
   - glargine and SSI as per home regimen
   .
   # Hyperlipidemia:
   - cont statin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-5-16**] 10:29 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-5-16**] 01:00 PM
   Prophylaxis:
   DVT:  SQ hep
   Stress ulcer:  PPI
   VAP:  Chlorhex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Critical Care  time spent: 30 minutes

2149-05-19 07:50:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   [**5-18**]
   - increased PPI to max therapy [**Hospital1 7**]
   - started Bactrim for E.coli UTI
   - changed IV meds to PO
   - continued weaning PEEP, down to 8 which she tolerated for the
   morning, but back up to 10 in the afternoon
   - foley changed
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsCeftriaxone
   Unknown;
   Propofol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2149-5-16**] 01:00 PM
   Ciprofloxacin - [**2149-5-18**] 12:10 AM
   Metronidazole - [**2149-5-19**] 12:13 AM
   Bactrim (SMX/TMP) - [**2149-5-19**] 06:08 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-5-18**] 11:10 AM
   Lansoprazole (Prevacid) - [**2149-5-18**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2149-5-19**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-19**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 72 (56 - 106) bpm
   BP: 122/73(84) {91/53(62) - 129/109(114)} mmHg
   RR: 10 (6 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,950 mL
                                                                    627 mL
   PO:
                  TF:
                                                                    960 mL
                                                                    307 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,091 mL
                                                                    545 mL
   Urine:
                                                                  1,091 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    859 mL
                                                                     82 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 620 (351 - 775) mL
   PS : 15 cmH2O
   RR (Set): 8
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 6.1 L/min
   Physical Examination
   GEN: sleeping, but arouses easily, looks slightly uncomfortable
   HEENT: PERRL, MM moist
   Pulm: clear ant and laterally
   Heart: RRR, no murmurs (although distant heart sounds)
   Abd: soft, NT, obese, normal BS
   EXT: no edema
   Skin: rash has resolved
   Labs / Radiology
   386 K/uL
   10.4 g/dL
   140 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   101 mEq/L
   141 mEq/L
   33.4 %
   6.4 K/uL
        [image002.jpg]
                             [**2149-5-17**]  02:58 AM
   WBC
   6.4
   Hct
   33.4
   Plt
   386
   Cr
   0.9
   Glucose
   140
   Other labs: Differential-Neuts:77.9 %, Lymph:19.3 %, Mono:2.5 %,
   Eos:0.1 %, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: clear without infiltrates or edema, trach in place
   Microbiology: UCx: URINE CULTURE-FINAL {ESCHERICHIA COLI}
   Sputum: OP flora with sparse GNRs
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   76F recently diagnosed with DM, HTN, tracheobronchomalacia from
   multiple intubations, s/p metal stent placement at OSH and recent
   removal of Y-stent two days ago admitted for respiratory distress.
   # Respiratory distress: Tachypnea and labored breathing. CXR w/o new
   PNA, no fever, no leukocytosis. Wheezing may be suggestive of COPD
   exacerbation. However, pt may also be anxious and subsequently
   tachypnic with increased intrathoracic pressure causing upper airway
   collapse on a already severely narrowed airway. Per IP, patient is
   frequently anxious.
   - appreciate IP recommendations
   - inc PEEP to open up upper airway
 continue to come down on PEEP as
   tolerated
   - continue [**Hospital1 7**] PPI to aid with tracheobronchomalacia
   - continue alprazolam [**Hospital1 7**] as well as ativan PRN, zyprexa TID,
   escitalopram qd, ativan and MSIR PRN
   - sputum cx suggestive of oral flora
   - will d/w case management and family today regarding placement
   - S&S eval today for passy-muir valve fitting
   # Tachycardia: Has not been an active issue for several days. brief
   episodes to 180's, now in 100's, sinus tachycardia vs AVNRT, ? anxiety
   - monitor on telemetry
   # Diarrhea/ C.diff positive:
   - continue flagyl for 14 day course
   # UTI: was started on cipro overnight but developed a rash. Currently
   on bactrim
   - goal 3 day course
   # COPD:
   - albuterol and ipratropium qh 6hrs
   # DM:
   - glargine and SSI as per home regimen
   # Hyperlipidemia:
   - cont statin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-5-16**] 10:29 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI [**Hospital1 7**]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2149-05-19 11:34:00 Physician Attending Progress Note
Chief Complaint: Trachealmalacia
   HPI: Patient seen and examined with team and I concur with residents
   assessment and plan.  Please see my note detailing plan.
   24 Hour Events:PPI increased to [**Hospital1 7**], started bactrim for UTI and foley
   changed, peep increased.
   Allergies:
   Ceftriaxone
   Unknown;
   Propofol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2149-5-16**] 01:00 PM
   Ciprofloxacin - [**2149-5-18**] 12:10 AM
   Bactrim (SMX/TMP) - [**2149-5-19**] 06:08 AM
   Metronidazole - [**2149-5-19**] 08:10 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2149-5-18**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2149-5-19**] 08:10 AM
   Other medications:
   Metoprolol 12.5mg [**Hospital1 7**]
   Albuterol Inhaler 2 PUFF IH Q2HR PRN wheezing, tachpnea
   Lorazepam 0.5 mg  Q4H:PRN
   Alprazolam 0.5 mg [**Hospital1 **]
   Metoclopramide 5 mg PO QIDACHS
   Docusate Sodium 100 mg PO BID  Order date: [**5-16**] @ 1332 19.
   Olanzapine 5 mg PO TID  Order date: [**5-16**] @ 1332
   Escitalopram Oxalate 10 mg PO DAILY
   Ferrous Sulfate 325 mg PO DAILY
   Furosemide 40 mg PO BID
   Senna 1 TAB PO BID:PRN
   Heparin 5000 UNIT SC TID
   Simvastatin 40 mg PO DAILY
   Insulin SC  (per Insulin Flowsheet)Sliding Scale
   Ipratropium Bromide MDI 2 PUFF IH Q6H  Order date: [**5-16**] @ 1332
   Lansoprazole Oral Disintegrating Tab 30 mg PO bid
   Morphine IR 7.5-30mg q4hr prn
   PRNs dose ativan and fentyl
   last 24 7.5 and 15 Morphine IR
   last 24 0.5 x 3
   Changes to medical and family history:
   Unchanged from admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems:No complaints
   Flowsheet Data as of  [**2149-5-19**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 71 (63 - 106) bpm
   BP: 102/58(65) {91/53(62) - 129/83(91)} mmHg
   RR: 15 (6 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,950 mL
                                                                    962 mL
   PO:
                  TF:
                                                                    960 mL
                                                                    462 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,091 mL
                                                                    995 mL
   Urine:
                                                                  1,091 mL
                                                                    995 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    859 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 620 (351 - 775) mL
   PS : 15 cmH2O
   RR (Set): 8
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 6.1 L/min
   Physical Examination
   General: Awake, alert, in distress
   HEENT: trach in place
   Pulmonary  When call lungs clear no wheeze.
   Cardiac: tachycardia, no MRG
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Neurologic:  mental status: Alert, in distress, unable to speak but
   mouths words  in one word answers
   Labs / Radiology No labs unable to get access however no indication for
   labs.  Chest port: Clear
   10.4 g/dL
   386 K/uL
   140 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   101 mEq/L
   141 mEq/L
   33.4 %
   6.4 K/uL
        [image002.jpg]
                             [**2149-5-17**]  02:58 AM
   WBC
   6.4
   Hct
   33.4
   Plt
   386
   Cr
   0.9
   Glucose
   140
   Other labs: Differential-Neuts:77.9 %, Lymph:19.3 %, Mono:2.5 %,
   Eos:0.1 %, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   76F recently diagnosed with DM, HTN, tracheobronchomalacia from
   multiple intubations, s/p metal stent placement at OSH and recent
   removal of Y-stent 2 days prior to admission admitted for respiratory
   distress.  She responded very well to anti anxiety treatment and PEEP.
   # Respiratory distress
   -Will f/u sputum cx no signs of active infection and sputum decreased.
   -Titrate PEEP to open up upper airway currently down to 10
   - On PPI [**Hospital1 7**]
   -Will discuss speaking on vent we can try to deflate cuff and have
   patient speak in prolonged inhalation with a closed glottis on
   exhalation.
   -Will try Passy-Muir valve however this may be very difficult as it
   would result in zero PEEP and may cause airway collapse.
   - anxiolytics: zyprexa TID, Xanax 0.5mg [**Hospital1 **] escitalopram daily, ativan
   and will try to limit Morphine as last resort.
   #C.Diff
   -Start flagyl three times daily for 2 weeks
   .
   # Tachycardia:
   -brief episodes to 180's, now in 100's, sinus tachycardia vs AVNRT, ?
   anxiety
   - monitor on telemetry
   -No further episodes
   #UTI-Did have some feeling of having to urinate
   -Bactrim for UTI will treat 7 days.
   # COPD:
   - albuterol and ipratropium qhs, albuterol q2hrs prn however suspect
   secondy to malacia
   .
   # DM:
   - glargine and SSI as per home regimen
   .
   # Hyperlipidemia:
   - cont statin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-5-16**] 10:29 PM 40 mL/hour
   Glycemic Control:
   Lines: No access
   Prophylaxis:
   DVT: Hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Screen for rehab
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above in Dr [**Last Name (STitle) 7173**]
s note including history, exam, ROS,
   Fam Hx and assessment and plan.  I would add/emphasize the following:
    76F recently diagnosed with DM, HTN, TBM from multiple intubations,
   s/p metal stent placement at OSH and recent removal of Y-stent 2 days
   prior to admission admitted for respiratory distress.  She responded
   very well to anti anxiety treatment and PEEP.
   Yesterday, PPI increased to [**Hospital1 7**], started Bactrim for UTI, peep was
   increased.
   Patient remains vent-dependent due to acute/chronic respiratory failure
   with severe TBM. She is on MMV 500 x 8, 10, 50% with sats of 98%. Lungs
   clear. Being treated for pansensitive E coli UTI with Bactrim. CXR
   shows small bilat effusions but is otherwise unremarkable. Plan is to
   decrease PEEP, continue treatment of UTI x 7d (foley changed), and
   cdiff x 14d. She will be screened for LTAC placement.
   Patient is critically ill. Total time 30 minutes. Full Code.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2149-5-19**] 04:08 PM ------

2149-05-20 07:38:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   No major overnight events
   Patient has no complaints this morning
   History obtained from Patient
   Allergies:
   History obtained from PatientCeftriaxone
   Unknown;
   Propofol
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-5-18**] 12:10 AM
   Metronidazole - [**2149-5-20**] 12:05 AM
   Bactrim (SMX/TMP) - [**2149-5-20**] 06:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-5-20**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-20**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 67 (63 - 102) bpm
   BP: 116/83(91) {88/48(60) - 134/83(91)} mmHg
   RR: 20 (9 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,780 mL
                                                                    623 mL
   PO:
                  TF:
                                                                    960 mL
                                                                    303 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,522 mL
                                                                    665 mL
   Urine:
                                                                  1,522 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    258 mL
                                                                    -42 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 475 (475 - 745) mL
   RR (Set): 8
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   SpO2: 98%
   ABG: ////
   Ve: 11.7 L/min
   Physical Examination
   GEN: pleasant, alert
   HEENT: MMM, PERRL
   PULM: clear ant and laterally
   HEART: RRR, no murmurs
   ABD: soft, NT, ND, obese
   EXT: tract edema
   Labs / Radiology
   386 K/uL
   10.4 g/dL
   140 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   101 mEq/L
   141 mEq/L
   33.4 %
   6.4 K/uL
        [image002.jpg]
                             [**2149-5-17**]  02:58 AM
   WBC
   6.4
   Hct
   33.4
   Plt
   386
   Cr
   0.9
   Glucose
   140
   Other labs: Differential-Neuts:77.9 %, Lymph:19.3 %, Mono:2.5 %,
   Eos:0.1 %, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   76F recently diagnosed with DM, HTN, tracheobronchomalacia from
   multiple intubations, s/p metal stent placement at OSH and recent
   removal of Y-stent two days ago admitted for respiratory distress.
   # Respiratory distress: Tachypnea and labored breathing. CXR w/o new
   PNA, no fever, no leukocytosis. Wheezing may be suggestive of COPD
   exacerbation. However, pt may also be anxious and subsequently
   tachypnic with increased intrathoracic pressure causing upper airway
   collapse on a already severely narrowed airway. Per IP, patient is
   frequently anxious.
   - inc PEEP to open up upper airway
 continue to come down on PEEP as
   tolerated
   - continue [**Hospital1 7**] PPI to aid with tracheobronchomalacia
   - continue alprazolam [**Hospital1 7**] as well as ativan PRN, zyprexa TID,
   escitalopram qd, ativan and MSIR PRN
   - sputum cx with acinetobacter [**Last Name (un) 270**] to bactrim: will treat for 2 weeks
   - will d/w case management and family today regarding placement
   # Diarrhea/ C.diff positive:
   - continue flagyl for 7 days after completing bactrim
   # UTI: was started on cipro overnight but developed a rash. Currently
   on bactrim
   - will treat with acinitobacter
   # Tachycardia: Has not been an active issue for several days. brief
   episodes to 180's, now in 100's, sinus tachycardia vs AVNRT, ? anxiety
   - monitor on telemetry
   # COPD:
   - albuterol and ipratropium qh 6hrs
   # DM:
   - glargine and SSI as per home regimen
   # Hyperlipidemia:
   - cont statin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-5-16**] 10:29 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2149-05-20 10:21:00 Physician Attending Progress Note
Chief Complaint: Trachea lmalacia
   HPI: Patient seen and examined with team and I concur with resident
   assessment and plan.  Please see my note detailing plan.
   24 Hour Events:Sputum with Acinito bacter.
   Allergies:
   Ceftriaxone
   Unknown;
   Propofol
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-5-18**] 12:10 AM
   Bactrim (SMX/TMP) - [**2149-5-20**] 06:11 AM
   Metronidazole - [**2149-5-20**] 09:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2149-5-20**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2149-5-20**] 09:00 AM
   Other medications:
   Metoprolol 12.5mg [**Hospital1 7**]
   Albuterol Inhaler 2 PUFF IH Q2HR PRN wheezing, tachpnea
   Lorazepam 0.5 mg  Q4H:PRN
   Alprazolam 0.5 mg [**Hospital1 **]
   Metoclopramide 5 mg PO QIDACHS
   Docusate Sodium 100 mg PO BID  Order date: [**5-16**] @ 1332 19.
   Olanzapine 5 mg PO TID  Order date: [**5-16**] @ 1332
   Escitalopram Oxalate 10 mg PO DAILY
   Ferrous Sulfate 325 mg PO DAILY
   Furosemide 40 mg PO BID
   Senna 1 TAB PO BID:PRN
   Heparin 5000 UNIT SC TID
   Simvastatin 40 mg PO DAILY
   Insulin SC  (per Insulin Flowsheet)Sliding Scale
   Ipratropium Bromide MDI 2 PUFF IH Q6H  Order date: [**5-16**] @ 1332
   Lansoprazole Oral Disintegrating Tab 30 mg PO bid
   Morphine IR 7.5-30mg q4hr prn
   PRNs dose ativan and morhine IR
   Non given
   Changes to medical and family history:
   Please see admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-20**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 77 (63 - 102) bpm
   BP: 114/72(81) {88/48(60) - 138/126(129)} mmHg
   RR: 28 (9 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,780 mL
                                                                    823 mL
   PO:
                  TF:
                                                                    960 mL
                                                                    413 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,522 mL
                                                                    815 mL
   Urine:
                                                                  1,522 mL
                                                                    815 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    258 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 307 (307 - 745) mL
   RR (Set): 8
   RR (Spontaneous): 32
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 11.9 L/min
   Physical Examination
   General: Awake, alert, in distress
   HEENT: trach in place
   Pulmonary  When call lungs clear no wheeze.
   Cardiac: tachycardia, no MRG
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Neurologic:  mental status: Alert, in distress, unable to speak but
   mouths words  in one word answers
   Labs / Radiology
   10.1 g/dL
   318 K/uL
   102 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.4 mEq/L
   9 mg/dL
   97 mEq/L
   140 mEq/L
   31.4 %
   7.8 K/uL
        [image002.jpg]
                             [**2149-5-17**]  02:58 AM
                             [**2149-5-20**]  09:07 AM
   WBC
   6.4
   7.8
   Hct
   33.4
   31.4
   Plt
   386
   318
   Cr
   0.9
   0.8
   Glucose
   140
   102
   Other labs: Differential-Neuts:77.9 %, Lymph:19.3 %, Mono:2.5 %,
   Eos:0.1 %, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Micro-Sputum grew acinito bacter.
   Assessment and Plan
   76F recently diagnosed with DM, HTN, trachea broncho malacia from
   multiple intubations, s/p metal stent placement at OSH and recent
   removal of Y-stent 2 days prior to admission admitted for respiratory
   distress.  She responded very well to anti anxiety treatment and PEEP.
   # Respiratory distress
   -Titrate PEEP to open up upper airway currently down to 10
   -Sputum with Acinito bacter given UTI and sputum will tx 2 weeks
   bactrim DS [**Hospital1 **].
   -Check CBC/Lytes q3days given bactrim
   - On PPI [**Hospital1 7**]
   -Will discuss speaking on vent we can try to deflate cuff and have
   patient speak in prolonged inhalation with a closed glottis on
   exhalation.
   -anxiolytics: zyprexa TID, Xanax 0.5mg [**Hospital1 **] escitalopram daily, ativan
   and will try to limit Morphine as last resort.
   #C.Diff
   -Start flagyl three times daily for 3 weeks as will tx 1 week post
   bactrim
   .
   # Tachycardia:
   -brief episodes to 180's, now in 100's, sinus tachycardia vs AVNRT, ?
   anxiety
   - monitor on telemetry
   -No further episodes
   #UTI-Did have some feeling of having to urinate
   -Bactrim for UTI will treat 14 days.
   # COPD:
   - albuterol and ipratropium qhs, albuterol q2hrs prn however suspect
   secondary to malacia
   .
   # DM:
   - glargine and SSI as per home regimen
   .
   # Hyperlipidemia:
   - cont statin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-5-20**] 06:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:  Hep
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Screening for rehab
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above in Dr [**Last Name (STitle) 7173**]
s note including history, exam, ROS,
   Fam Hx and assessment and plan.  I would add/emphasize the following:
   76F recently diagnosed with DM, HTN, TBM from multiple intubations, s/p
   metal stent placement at OSH and recent removal of Y-stent 2 days prior
   to admission admitted for respiratory distress.  She responded very
   well to anti anxiety treatment and PEEP.
   Overnight events include sputum culture growing Acinetobacter.
   Patient remains vent-dependent due to acute/chronic respiratory failure
   with severe TBM. She is on MMV 500 x 8, 10, 50% with sats of 98%. Lungs
   clear. No new CXR
 yesterday showed small bilat effusions but
   otherwise unremarkable.
   Plan - agree with treating x 2 weeks with Bactrim which will also cover
   the pansensitive e coli UTI. On Flagyl for cdiff. Plan is for discharge
   to [**Hospital1 **] rehab, likely tomorrow.
   Patient is critically ill. Total time 30 minutes. Full Code.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2149-5-20**] 18:14 ------

2149-05-21 08:22:00 Physician Attending Progress Note
Chief Complaint: Tracheal malacia
   HPI: Patient seen and examined with team and I concur with resident
   assessment and plan.  Please see my note detailing plan.
   24 Hour Events:
   Sputum with acinito bacter for 2 weeks
   Family updated about progress
   failed speaking with decreased cuff pressure
   Tx pending to [**Location (un) 630**] Siani
   Allergies:
   Ceftriaxone
   Unknown;
   Propofol
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2149-5-20**] 09:00 AM
   Bactrim (SMX/TMP) - [**2149-5-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-5-20**] 09:00 AM
   Lansoprazole (Prevacid) - [**2149-5-20**] 09:00 AM
   Other medications:
   -Metoprolol 12.5mg [**Hospital1 7**]
   -Albuterol /atrovent
    wheezing, tachpnea
   -Lorazepam 0.5 mg  Q4H:PRN
   -Alprazolam 0.5 mg [**Hospital1 **]
   -Metoclopramide 5 mg PO QIDACHS
   -Docusate Sodium 100 mg PO BID  Order date: [**5-16**] @ 1332 19.
   -Olanzapine 5 mg PO TID  Order date: [**5-16**] @ 1332
   -Escitalopram Oxalate 10 mg PO DAILY
   -Ferrous Sulfate 325 mg PO DAILY
   -Furosemide 40 mg PO BID
   -Senna 1 TAB PO BID:PRN
   -Heparin 5000 UNIT SC TID
   -Simvastatin 40 mg PO DAILY
   -Insulin SC  (per Insulin Flowsheet)Sliding Scale
   -Ipratropium Bromide MDI 2 PUFF IH Q6H  Order date: [**5-16**] @ 1332
   -Lansoprazole Oral Disintegrating Tab 30 mg PO bid
   -Morphine IR 7.5-30mg q4hr prn
   PRNs dose ativan and morhine IR
   She receieved ativan this am.
   Changes to medical and family history:
   See H+P no changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: No change
   Flowsheet Data as of  [**2149-5-21**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 82 (67 - 99) bpm
   BP: 116/55(70) {85/26(41) - 156/74(104)} mmHg
   RR: 28 (17 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  2,000 mL
                                                                    454 mL
   PO:
                  TF:
                                                                    960 mL
                                                                    334 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    480 mL
   Urine:
                                                                  1,630 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    370 mL
                                                                    -26 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 276 (276 - 340) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 30
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 8.7 L/min
   Physical Examination
   General: Awake, alert, in distress
   HEENT: trach in place
   Pulmonary  When call lungs clear no wheeze.
   Cardiac: tachycardia, no MRG
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally
   Skin: no rashes or lesions noted.
   Neurologic:  mental status: Alert, in distress, unable to speak but
   mouths words  in one word answers
   Labs / Radiology: No labs/film today
   10.1 g/dL
   318 K/uL
   102 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.4 mEq/L
   9 mg/dL
   97 mEq/L
   140 mEq/L
   31.4 %
   7.8 K/uL
        [image002.jpg]
                             [**2149-5-17**]  02:58 AM
                             [**2149-5-20**]  09:07 AM
   WBC
   6.4
   7.8
   Hct
   33.4
   31.4
   Plt
   386
   318
   Cr
   0.9
   0.8
   Glucose
   140
   102
   Other labs: Differential-Neuts:77.9 %, Lymph:19.3 %, Mono:2.5 %,
   Eos:0.1 %, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   76F recently diagnosed with DM, HTN, trachea broncho malacia from
   multiple intubations, s/p metal stent placement at OSH and recent
   removal of Y-stent 2 days prior to admission admitted for respiratory
   distress.  She responded very well to anti anxiety treatment and PEEP.
   # Respiratory distress
   -Titrate PEEP to open up upper airway currently down to 10
   -Sputum with Acinito bacter given UTI and sputum will tx 2 weeks
   bactrim DS [**Hospital1 **].
   -Check CBC/Lytes q3days given bactrim
   - On PPI [**Hospital1 7**]
   -anxiolytics: zyprexa TID, Xanax 0.5mg [**Hospital1 **] escitalopram daily, ativan
   and will try to limit Morphine as last resort.
   -Will follow with IP service as outpatient.
   #C.Diff
   -Start flagyl three times daily for 3 weeks as will tx 1 week post
   bactrim
   .
   # Tachycardia:
   -brief episodes to 180's, now in 100's, sinus tachycardia vs AVNRT, ?
   anxiety
   - monitor on telemetry
   -No further episodes
   #UTI-
   -Bactrim for UTI will treat 14 days.
   # COPD:
   - albuterol and ipratropium qhs, albuterol q2hrs prn however suspect
   secondary to malacia
   .
   # DM:
   - glargine and SSI as per home regimen
   .
   # Hyperlipidemia:
   - cont statin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-5-20**] 06:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:  Heprin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : [**Location (un) 630**] Siani transfer today.
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above in Dr [**Last Name (STitle) 7173**]
s note including history, exam, ROS,
   Fam Hx and assessment and plan.  I would add/emphasize the following:
   76F recently diagnosed with DM, HTN, severe TBM from multiple
   intubations, s/p metal stent placement at OSH and recent removal of
   Y-stent 2 days prior to admission admitted for respiratory distress.
   She responded very well to anti-anxiety treatment and PEEP.
   No overnight events. Sputum culture grew Acinetobacter sensitive to
   Bactrim.
   Patient remains vent-dependent due to acute/chronic respiratory failure
   with severe TBM. She is on MMV 500 x 8, 10, 50% with sats of 98%. Lungs
   clear. No new CXR.
   Plan - agree with treating x 2 weeks with Bactrim which will also cover
   the pansensitive e coli UTI. On Flagyl for cdiff. Continue [**Hospital1 **] PPI. To
   be discharged to [**Hospital1 **] tomorrow AM.
   Patient remains ventilator dependent/critically ill. Total time 30
   minutes. Full Code.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2149-5-21**] 14:59 ------